US06900214B2
A mixture of 3-bromobenzaldehyde (13.0 g, 70 mmol), acetoacetamide (7.08 g, 70 mmol), urea (5.26 g, 87.5 mmol), polyphosphate ester (9.1 g, 21 mmol) and THF (150 mL) was heated in a sealed tube for 18 h at 75° C. This mixture was cooled to room temperature; more polyphosphate ester (60.6 g, 140 mmol) was added and heating resumed for another 5 h. The reaction mixture was cooled to room temperature, poured into water (800 mL) and stirred for 18 h. The resulting precipitates were collected by vacuum filtration, washed with water and with ether, and air dried to yield 6-(3-bromophenyl)-5-cyano-3,6-dihydro-4-methyl-2-oxo-(2H)-pyrimidine as a light yellow solid (16.25 g; 79%): 1H NMR (DMSO-d6, 400 MHz) δ 9.60 (s, 1H), 7.87 (s, 1H), 7.55 (m, 1H), 7.48 (m, 1H), 7.39 (t, 1H, J=7.9 Hz), 7.32 (d, 1H, J=7.9 Hz), 5.14 (s, 1H), 2.02 (s, 3H).

reactant | 3-bromobenzaldehyde | 70 mmol, 13.0 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | acetoacetamide | 70 mmol, 7.08 g | C(CC(=O)C)(=O)N | C4H7NO2
reactant | urea | 87.5 mmol, 5.26 g | NC(=O)N | CH4N2O
reactant | THF | 150 mL | C1CCOC1 | C4H8O
solvent | water | 800 mL | O | H2O
product | 6-(3-bromophenyl)-5-cyano-3,6-dihydro-4-methyl-2-oxo-(2H)-pyrimidine | BrC=1C=C(C=CC1)C1C(=C(NC(N1)=O)C)C#N | C12H10BrN3O
